US04474792
A mixture of 17.2 g (0.1 mole) of 5-chlorosalicylic acid, 28 g. of potassium carbonate, 25 ml. of methyl iodide, and 100 ml. of N,N-dimethylformamide was heated at 60° C. for 16 hours. The mixture was diluted with water and extracted with diethyl ether. The ether extracts were evaporated and the residue dissolved in benzene. The resulting solution was washed with 5 percent sodium hydroxide solution and dried over magnesium sulfate. Evaporation provided a residue which was mixed with 100 ml. of ethanol and 100 ml. of 10 percent sodium hydroxide solution and heated at reflux for two hours. The mixture was evaporated to provide a residue which was washed with 5 percent hydrochloric acid solution, and recrystallized from carbon tetrachloride to provide white solid 5-chloro-2-methoxybenzoic acid, m.p. 95°98° C.

reactant | 5-chlorosalicylic acid | 0.1 mole, 17.2 g | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | CI | CH3I
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-chloro-2-methoxybenzoic acid | ClC=1C=CC(=C(C(=O)O)C1)OC | C8H7ClO3
